US05145958
0.2 mole=49.3 g of ethyl 3,5-dichloro-4-amino-benzoate were initially introduced into an autoclave together with 250 ml of water. The mixture was heated to 250° C. and stirred at this temperature for 2.5 hours. Reaction gas formed was continuously removed to maintain a pressure of about 40 bar. The product was subsequently recovered by steam distillation. 31 g of 2,6-dichloroaniline were obtained, corresponding to a yield of 94%.

reactant | ethyl 3,5-dichloro-4-amino-benzoate | 49.3 g | ClC=1C=C(C(=O)OCC)C=C(C1N)Cl | C9H9Cl2NO2
solvent | water | 250 ml | O | H2O
product | 2,6-dichloroaniline | 31 g, yield of 94% | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
